US09023889B2
Synthesis of (R)-2-((R)-3,4-dihydroxy-5-oxo-2,5-dihydrofuran-2-yl)-2-hydroxyethyl 5-((3aR,6S,6aS)-2-oxohexahydrothieno[3,4-d]imidazol-6-yl)-pentanoate
54.1 g of ascorbic acid (306.9 mmol; 5 eq.) and 15 g of biotin (61.4 mmol; 1 eq.) are dissolved in 180 ml of anhydrous acetone under a protective gas, 1 g of lipase (Candida antarctica) is added, and the mixture is shaken at 40° C. for 32 h. The enzyme is filtered off, 50 ml of water are added to the solution, and the product is precipitated by pouring into toluene.

reactant | ascorbic acid | 306.9 mmol, 54.1 g, 5 eq. | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | biotin | 61.4 mmol, 15 g, 1 eq. | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
solvent | acetone | 180 ml | CC(=O)C | C3H6O
product | (R)-2-((R)-3,4-dihydroxy-5-oxo-2,5-dihydrofuran-2-yl)-2-hydroxyethyl 5-((3aR,6S,6aS)-2-oxohexahydrothieno[3,4-d]imidazol-6-yl)-pentanoate | O=C1N[C@@H]2[C@H](N1)[C@@H](SC2)CCCCC(=O)OC[C@@H](O)[C@H]2OC(C(=C2O)O)=O | C16H22N2O8S
